US07902375B2
AG3) 1-(4-Fluoro-3-methanesulfonyl-phenyl)-propan-2-one
A solution comprising 2-fluoro-5-(2-oxo-propyl)-benzenesulfinic acid sodium salt (AG2) (15.43 g, 64.83 mmol) in DMF (300 ml) is treated with methyl iodide (18.45 g, 130 mmol). The reaction mixture is stirred at room temperature for 30 minutes. Purification is carried out by chromatography on silica (eluting with 4:1 hexane-ethyl acetate) to afford the titled compound.

reactant | 2-fluoro-5-(2-oxo-propyl)-benzenesulfinic acid sodium salt | 64.83 mmol, 15.43 g | [Na+].FC1=C(C=C(C=C1)CC(C)=O)S(=O)[O-]
reactant | methyl iodide | 130 mmol, 18.45 g | CI | CH3I
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 1-(4-Fluoro-3-methanesulfonyl-phenyl)-propan-2-one | FC1=C(C=C(C=C1)CC(C)=O)S(=O)(=O)C | C10H11FO3S
